US08580780B2
6-Bromo-3-phenylbenzothiophene:
Heat 2-(3-bromo-phenylthio)-1-phenyl-ethanone (4 g, 13 mmol) in polyphosphoric acid (4g) at 80° C. for 4 h. Add EtOAc and water to the mixture and wash with saturated aqueous NaHCO3 and brine. Dry the organic layer over Na2SO4, filter and concentrate in vacuo. Slurry the residue in hexane and purify by chromatography on silica gel eluting with hexane to give the desired intermediate that is used without further purification (2.7 g, 72%). MS (GCMS) m/z: 289 M+.

reactant | 2-(3-bromo-phenylthio)-1-phenyl-ethanone | 13 mmol, 4 g | BrC=1C=C(C=CC1)SCC(=O)C1=CC=CC=C1 | C14H11BrOS
solvent | Pd/C | [Pd] | Pd
product | 6-Bromo-3-phenylbenzothiophene | BrC1=CC2=C(C(=CS2)C2=CC=CC=C2)C=C1 | C14H9BrS
